US07759337B2
Step 5: N-cyclopropyl-4-methyl-3-(8-morpholin-4-ylpyrido[2,3-d]pyridazin-3-yl)benzamide
This title compound by heating a mixture of 3-bromo-8-morpholinopyrido[2,3-d]pyridazine (0.033 g, 0.11 mmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.048 g, 0.16 mmol), sodium carbonate (0.049 g, 0.46 mmol) and trans-dichlorobis(triphenyl-phosphine)palladium (II) (0.011 g, 0.016 mmol) in DME (2.1 mL)/H2O (0.9 mL)/EtOH (0.6 mL) at 80° C. The mixture was cooled to RT, evaporated onto silica gel and purified flash chromatography eluting with 2M NH3 in MeOH:CH2Cl2 (0:1→1:19) to give the title compound as a tan amorphous solid. MS m/z: 390.2 [M+1].

reactant | 3-bromo-8-morpholinopyrido[2,3-d]pyridazine | 0.11 mmol, 0.033 g | BrC1=CC=2C(=C(N=NC2)N2CCOCC2)N=C1 | C11H11BrN4O
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.16 mmol, 0.048 g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | sodium carbonate | 0.46 mmol, 0.049 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | 0.9 mL | O | H2O
solvent | DME | 2.1 mL | COCCOC | C4H10O2
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium (II) | 0.016 mmol, 0.011 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | EtOH | 0.6 mL | CCO | C2H6O
product | N-cyclopropyl-4-methyl-3-(8-morpholin-4-ylpyrido[2,3-d]pyridazin-3-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC=2C(=C(N=NC2)N2CCOCC2)N=C1)=O | C22H23N5O2
